US07629342B2
4G. Synthesis of 4-(6-bromo-5-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile
To a suspension of 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (2.21 gm, 7.2 mmol) in 30 ml of methanol at rt was added LiOH monohydrate (0.45, 10.8 mmol). The resulting mixture was heated to 70° C. and stirred at this temperature for 15 min. Br2 (2.3 g, 14.4 mmol) was then carefully added dropwise to the reaction mixture. After addition was complete, the color of Br2 disappeared after 2 minutes. HPLC indicated that the reaction had proceeded to 40% completion. Additional Br2 (˜0.8 g, 5 mmol) was then added followed by additional LiOH monohydrate (0.21 g, 5 mmol). The Br2 was consumed within 2 minutes after addition. The reaction was then cooled to rt and the solvent was removed under reduced pressure. The resulting residue was reconcentrated from acetone (2×20 ml). To the resulting light brown residue was added 20 mL DMF, followed by addition of LiOH monohydrate (0.612 g, 14.40 mmol) and 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (1.65 gm, 7.91 mmol) at rt under Ar. The reaction mixture was heated to 70° C. and stirred at this temperature for 1 hr. After this time, the solution was cooled to rt and diluted with water (50 ml) and EtOAc (50 ml) and stirred for 10 minutes. The layers were separated and organic phase was washed with saturated aqueous NaCl (100 mL). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was purified using an automated column chromatography system (ISCO, 120 gm silica gel) eluting with a gradient of 20%-80% EtOAc/Hex to give product as off-white solid (3.27 gm, 81% yield). HPLC retention time (method B) 3.91 min; LCMS (M+H)=561.0.

reactant | 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 7.2 mmol, 2.21 gm | ClC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=C(C#N)C=C1 | C17H10ClN3O
reactant | Br2 | 14.4 mmol, 2.3 g | BrBr | Br2
reactant | Br2 | 5 mmol, ˜0.8 g | BrBr | Br2
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 7.91 mmol, 1.65 gm | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 4-(6-bromo-5-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 3.27 gm, 81% yield | BrC=1C(=C(C(N(N1)CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)Cl | C25H15BrClF3N4O
